US04602041
Phosphoryl chloride (0.56 cm3, 6.1 mmol) was added dropwise to cooled N,N-dimethyl formamide (4 cm3) under nitrogen. 3,5-dichloro-N,N-dimethylaniline (1.16 g, 6.1 mmol) was then added to the solution which was then heated under nitrogen at 100° C. for 3 h. The solution was cooled, poured onto ice (6 g) and the mixture adjusted to pH 6 by addition of a saturated solution of sodium acetate. The suspended solid was collected and recrystallised from ethyl acetate-petroleum spirit 60°-80° C. mixture giving pale yellow needles of 2,6-dichloro-4-dimethylaminobenzaldehyde (0.8 g) mp 169°-71° C.

reactant | Phosphoryl chloride | 6.1 mmol, 0.56 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,5-dichloro-N,N-dimethylaniline | 6.1 mmol, 1.16 g | ClC=1C=C(N(C)C)C=C(C1)Cl | C8H9Cl2N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethyl formamide | 4 cm3 | CN(C=O)C | C3H7NO
product | 2,6-dichloro-4-dimethylaminobenzaldehyde | 0.8 g | ClC1=C(C=O)C(=CC(=C1)N(C)C)Cl | C9H9Cl2NO
